Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
CP
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with hx CAD (BMS x 1 ___, ___ 2 in ___ and ___ to LAD), 
poorly controlled type 2 IDDM, HTN presented to PCP's office 
this AM reporting episode of CP last night. Over the past week 
patient's jan___ duties have increased and has felt weak and 
fatigued. Admits to radiation to R arm. At approx 10pm last 
night, patient felt faint and c/o ___ chest tightness, 
relieved by took 2 NTG. Denies any associated SOB, Diaphoresis. 
Patient c/o perisistent ___ CP Today and feels mildly SOB.  
In the ER, patient's VS were 97.2, 99, 145/97, 15, 100% 2L NC. 
Patient had CP relief to 2 SL NTG. On transfer to floor, patient 
has no chest pain.  
.  
Patient denies any N, V, D, CP, SOB currently. All other ROS 
negative unless otherwise specified 

 
Past Medical History:
asthma, emphysema, chronic bronchitis, HTN, CAD (MIx2, 2
cardiac stents ___, migraines, GERD, DM (takes pills and
insulin), Anemia, neuropathy, anxiety

 
Social History:
___
Family History:
parents not known. daughter htn  

 
Physical ___:
VS - 98.3, 142/77, 89, 16, 93%RA  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: No JVD  
CV: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. 
 
Chest: CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ Stress
INTERPRETATION: This ___ yo Type II IDDM woman with a h/o MI and 
stent in ___ was referred for evaluation of chest pain. The 
patient was 
infused with 0.142mg/kg/min of persantine over 4 minutes. During 

infusion, the patient reported ___ mid-sternal chest "pressure" 
which 
was increased slightly with inspiration. This symptom was 
relieved after 
125mg of IV aminophylline was given post-isotope injection. No 
significant ST segment changes were noted. The rhythm was sinus 
without 
ectopy. Hemodynamic response to infusion was appropriate. 
  
IMPRESSION: Possible anginal type symptoms in the absence of 
ischemic 
EKG changes. Nuclear report sent separately. 

 
IMPRESSION: Normal myocardial perfusion and function (EF 57%) 

___ 06:25AM BLOOD WBC-7.5 RBC-3.94* Hgb-13.0 Hct-36.1 
MCV-92 MCH-32.9* MCHC-36.0* RDW-13.1 Plt ___
___ 07:00AM BLOOD WBC-7.1 RBC-3.84* Hgb-12.9 Hct-35.3* 
MCV-92 MCH-33.7* MCHC-36.6* RDW-12.1 Plt ___
___ 05:30AM BLOOD WBC-8.1 RBC-3.76* Hgb-12.6 Hct-34.9* 
MCV-93 MCH-33.6* MCHC-36.2* RDW-13.2 Plt ___
___ 06:25AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 05:30AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-68* UreaN-17 Creat-0.8 Na-141 
K-4.0 Cl-102 HCO3-32 AnGap-11
___ 07:00AM BLOOD Glucose-90 UreaN-18 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-31 AnGap-11
___ 05:30AM BLOOD Glucose-178* UreaN-22* Creat-0.8 Na-136 
K-3.9 Cl-101 HCO3-24 AnGap-15
 
Brief Hospital Course:
Patient is a ___ y/o F with a history of CAD with BMS x 1 ___, 
___ 2 in ___ and ___ to LAD, DM, HTN, Hypercholesterolemia who 
presents with atypical chest pain.  
.  
#. CAD: Pt with hx CAD, poorly controlled DM, episode of CP 
prior to admission concerning for angina.  Patient's EKG showed 
TWI in AVL that is nonspecific. Patient ruled out for MI.  
Patient's CP that was likely of noncardiac origin, given the 
multiple episodes of waxing and waning CP with rest and or 
exertion, and lack of EKG changes and negative cardiac enzymes.  
Patient had a nuclear stress as an inpatient and was negative 
for any perfusion defects.  
- Continue ASA, Plavix  
- Contine ACE, BB  
- Continue Statin  
.  
#. Pump: Euvolemic on exam.  
.  
#. Rhythm: NSR.  
.  
# HTN: SBP 120-140s on discharge.  Concern that patient may be 
non compliant with medication regimen.  Patient had dropped SBP 
into ___ on admission once home medications were administered.  
Her does of BB and Imdur have been decreased, SBPs have been 
controlled, but may need outpatient titration.  
- Continue BP meds. 
.  
#. DM - HbA1c 10.0 on ___. Poorly controlled. Currently on 
Levemir 50 units sq in AM, 60 in ___, Metformin 500 mg tid, 
although not compliant with this.  
- Continue metformin  
- Continue Lantus 50u qAM/60u qHS  
.  
#. hyperlipidemia - Continue Lipitor 80 mg qday.  

 
Medications on Admission:
Advair 250/50 daily  
Albuterol Aerosol prn  
ASA 325mg daily  
Atenolol 100mg qday  
Insulin levimir 50 units AM; 60 units ___,  
Isosorbide Mononitrate 120mg daily  
Lisinopril 10mg daily  
Metformin 500 mg TID,  
Nitroglycerin SL  
Omeprazole 40 mg daily  
Plavix 75 mg daily,  
Potassium chloride 20 mEq  
Simvastatin 80 mg  

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q6H (every 6 hours) as needed.  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed.  
8. Levemir 100 unit/mL Solution Sig: One (1)  Subcutaneous twice 
a day: 50units qAM, 60 qPM.  
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
10. Potassium Chloride 10 mEq Capsule, Sustained Release Sig: 
Two (2) Capsule, Sustained Release PO once a day.  
11. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual q5min as needed for chest pain: Sit down prior to 
taking. Take one tab every 5 minutes until chest pain resolves. 
If pain not resolved, please call EMS.  
12. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
13. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).
Disp:*90 Tablet(s)* Refills:*2*
14. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
- Atypical Chest pain
- Coronary artery disase
Secondary
- Hypertension
- Diabetes, insulin dependent

 
Discharge Condition:
Afebrile, Chest pain free, stable.  

 
Discharge Instructions:
You were hospitalized because you had chest pain.  You did not 
have a heart attack.  Your chest pain resolved.  Your blood 
pressure was a little low on the regimen you had previously been 
taking at home.  Several of your doses have been changed:

We made the following changes to your medications:
1. We changed your imdur to 30mg daily
2. We changed your lisinopril to 5mg daily
3. We discontinued your atenolol.
4. We started metoprolol 37.5mg, twice daily.  

You had a stress test that was normal.  Please continue to 
adhere to a healthy diet and exercise daily.  

If you experience any additional chest pain, shortness of 
breath, nausea, vomiting, please call your PCP or return to the 
ER.  
 
Followup Instructions:
___